US06384234B1
Preparation of 1-Chloro-N-(2-chloro-4-fluorophenyl)methanesulfonamide
72.8 g (0.5 mol) of 2-chloro-4-fluoroaniline were dissolved in 400 mL of toluene and cooled to 5-10° C., and then 79 g (0.53 mol) of chloromethylsulfonyl chloride were added slowly with stirring. The temperature was kept below 10-15° C. The mixture was then heated to 40° C. for 30 minutes and cooled again to 5-10° C. At this temperature, 101 g (1 mol) of triethylamine was added with stirring and cooling. After the addition was complete, the mixture was stirred at 40° C. for an additional 8 hours and then poured into 1050 mL of 6 N hydrochloric acid. The organic phase was separated and the aqueous phase was washed with toluene. The combined organic phases were poured with vigorous stirring into 12.5% sodium hydroxide solution. The basic aqueous phase was separated and the organic phase was washed with aqueous sodium hydroxide solution. The combined aqueous phases were treated with active carbon and filtered. 6 N hydrochloric acid was added with cooling until the pH was below 7. The precipitated product was filtered off, washed with water and dried to yield 96.8 g (75%) of the title compound as a solid melting at 83-85° C.

reactant | 2-chloro-4-fluoroaniline | 0.5 mol, 72.8 g | ClC1=C(N)C=CC(=C1)F | C6H5ClFN
reactant | chloromethylsulfonyl chloride | 0.53 mol, 79 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | triethylamine | 1 mol, 101 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 6 N, 1050 mL | Cl | ClH
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Chloro-N-(2-chloro-4-fluorophenyl)methanesulfonamide | 96.8 g, 75% | ClCS(=O)(=O)NC1=C(C=C(C=C1)F)Cl | C7H6Cl2FNO2S
